US08217032B2
Combine methanesulfonic acid 6-benzyloxy-2-bromo-naphthalen-1-yl ester (10.0 g, 24.4 mmol), 4-fluorophenylboronic acid (10.2 g, 729 mmol), sodium carbonate (7.8 g, 73.6 mmol) and tetrakistriphenylphosphine palladium (2.8 g, 2.4 mmol) in a mixture of toluene (300 mL), ethanol (60 mL) and water (40 mL). Heat the mixture at 100° C. for 12 hours. Cool and filter the suspension through a pad of celite. Evaporate the solvent in vacuo. Wash the residue with sodium bicarbonate solution and brine. Dry with magnesium sulfate and concentrate in vacuo. Purify the residue over silica gel, eluting the material with a step gradient of methanol/dichloromethane (0 to 10%), to obtain 10.1 g (98%) of methanesulfonic acid 6-benzyloxy-2-(4-fluoro-phenyl)-naphthalen-1-yl ester.

reactant | methanesulfonic acid 6-benzyloxy-2-bromo-naphthalen-1-yl ester | 24.4 mmol, 10.0 g | C(C1=CC=CC=C1)OC=1C=C2C=CC(=C(C2=CC1)OS(=O)(=O)C)Br | C18H15BrO4S
reactant | 4-fluorophenylboronic acid | 729 mmol, 10.2 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 73.6 mmol, 7.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 60 mL | C(C)O | C2H6O
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 mL | O | H2O
product | methanesulfonic acid 6-benzyloxy-2-(4-fluoro-phenyl)-naphthalen-1-yl ester | 10.1 g, 98% | C(C1=CC=CC=C1)OC=1C=C2C=CC(=C(C2=CC1)OS(=O)(=O)C)C1=CC=C(C=C1)F | C24H19FO4S
